US06140317
4-(2,3-Dihydroindol-1-yl)-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine
This product is prepared in a manner analogous to that described in Example 1 from 4-chloro-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine and 2,3-dihydroindole (1.1 equivalents). M.p. >300° C.; FAB-MS: (M+H)+ =343 (corresponds to C21H18N4O).

reactant | 4-chloro-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)OC | C13H10ClN3O
reactant | 2,3-dihydroindole | 1.1 equivalents | N1CCC2=CC=CC=C12 | C8H9N
product | 4-(2,3-Dihydroindol-1-yl)-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine | N1(CCC2=CC=CC=C12)C=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)OC | C21H18N4O
